US06875781B2
4-(5-Chloro-2-methoxy-phenyl)-N-(4-chloro-phenyl)-pyridine-2,6-diamine
To a mixture of 4-(5-chloro-2-methoxy-phenyl)-pyridine-2,6-diamine trifluoroacetic acid salt (90 mg, 0.25 mmol), 4-chloro-phenylboronic acid (45 mg, 0.29 mmol), copper (II) acetate (218 mg, 1.2 mmol), 4A molecular sieves (5 g) in dichloromethane (20 ml) was added triethylamine (0.3 ml). The mixture was stirred under an oxygen atmosphere for 40 minutes and filtered through a pad of celite under suction. After evaporation of volatiles under reduced pressure, the residue was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (3:5 followed by 1:1 followed by 5:3) to provide the title compound (30 mg, 33% yield). 1H NMR (acetone-d6) δ 3.84 (s, 3H, CH3), 5.33 (d, 2H, J=8.8 Hz, NH2), 6.16 (d, 1H, J=1.1 Hz, Ar), 6.27 (t, 1H, J=1.1 Hz, Ar), 7.12 (d, 1H, J=8.8 Hz, Ar), 7.23 (d, 2H, J=8.9 Hz, Ar), 7.30 (d, 1H, J=2.7 Hz, Ar), 7.36 (dd, 1H, J=8.8 Hz, J=2.7 Hz, Ar), 7.76-7.79 (m, 2H, Ar), 8.05 (s, 1H,

reactant | 4-(5-chloro-2-methoxy-phenyl)-pyridine-2,6-diamine trifluoroacetic acid salt | 0.25 mmol, 90 mg | FC(C(=O)O)(F)F.ClC=1C=CC(=C(C1)C1=CC(=NC(=C1)N)N)OC
reactant | 4-chloro-phenylboronic acid | 0.29 mmol, 45 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 1.2 mmol, 218 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-(5-Chloro-2-methoxy-phenyl)-N-(4-chloro-phenyl)-pyridine-2,6-diamine | 30 mg, 33% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=C1)N)NC1=CC=C(C=C1)Cl)OC | C18H15Cl2N3O
